US04870095
Following the procedure of example 1B, 13.8 g (0.0645 mol) of 2-(4-fluorophenyl)-1-phenylethanone was reacted with 20 mL of dimethyl formamide dimethyl acetal to yield 13.6 g of 3-(dimethylamino)-2-(4-fluorophenyl)-1-phenyl-2-propen-1-one, mp 115°-116° from isopropyl acetate. The enamine (10.5 g, 0.039 mol) was reacted with 6.03 g (0.039 mol) of ethyl hydrazinoacetate hydrochloride to yield 12.1 g of product mp 86°-87° C. from methyl-t-butyl ether.

reactant | 2-(4-fluorophenyl)-1-phenylethanone | 0.0645 mol, 13.8 g | FC1=CC=C(C=C1)CC(=O)C1=CC=CC=C1 | C14H11FO
reactant | isopropyl acetate | C(C)(=O)OC(C)C | C5H10O2
reactant | dimethyl formamide dimethyl acetal | 20 mL | COC(N(C)C)OC | C5H13NO2
product | 3-(dimethylamino)-2-(4-fluorophenyl)-1-phenyl-2-propen-1-one | 13.6 g | CN(C=C(C(=O)C1=CC=CC=C1)C1=CC=C(C=C1)F)C | C17H16FNO
